US07351719B2
Z44c) [2-(2-chloro-4-nitro-phenyl)-ethyl]-diethyl-amine
65 mL (65.000 mmol) borane (1 M in THF) was added at RT to a solution of 3.702 g (13.673 mmol) 2-(2-chloro-4-nitro-phenyl)-N,N-diethyl-acetamide in 130 mL THF and the mixture was stirred for 4 h . The reaction mixture was evaporated down i. vac., the residue was combined with 15 mL MeOH and 15 mL semiconc. aqueous HCl and heated to 100° C. for 15 min. Water was added, the mixture was made basic with aqueous sodium carbonate solution and the aqueous phase was extracted with EtOAc. The combined org. phases were washed with water and saturated aqueous NaCl solution, dried over sodium sulphate and evaporated down i. vac. The crude product was purified by column chromatography (Alox, neutral, act. II-III, gradient petroleum ether/EtOAc 8:1→4:1).

reactant | borane | 65.000 mmol, 1 M, 65 mL | B | BH3
reactant | 2-(2-chloro-4-nitro-phenyl)-N,N-diethyl-acetamide | 13.673 mmol, 3.702 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)N(CC)CC | C12H15ClN2O3
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | [2-(2-chloro-4-nitro-phenyl)-ethyl]-diethyl-amine | ClC1=C(C=CC(=C1)[N+](=O)[O-])CCN(CC)CC | C12H17ClN2O2
